* Generic behavioral analog macro-models for preliminary CircuitCI design simulation.
* These models are intentionally simple and are not vendor- or bench-calibrated.

.subckt CIRCUITCI_IDEAL_OPAMP INP INN VCC VEE OUT
* Finite-gain voltage-controlled source for preliminary closed-loop topology checks.
EGAIN NRAW VEE INP INN 100000
ROUT NRAW OUT 10
RBIASP INP VEE 1G
RBIASN INN VEE 1G
COUT OUT VEE 10p
.ends CIRCUITCI_IDEAL_OPAMP

.subckt CIRCUITCI_IDEAL_COMPARATOR INP INN VCC VEE OUT
* Logistic transition avoids the convergence problems of a hard digital step.
BOUT OUT VEE V={v(VCC,VEE)/(1+exp(-1000*(v(INP)-v(INN))))}
ROUT OUT VEE 1G
.ends CIRCUITCI_IDEAL_COMPARATOR

.subckt CIRCUITCI_IDEAL_LDO_3V3 VIN EN GND VOUT
* Idealized enabled 3.3 V source with smooth enable behavior.
BOUT VOUT GND V={3.3/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
.ends CIRCUITCI_IDEAL_LDO_3V3

.subckt CIRCUITCI_CH340C_USB_UART VCC GND TXD RXD DTR_N RTS_N PARAMS: TXD_STATE=1 DTR_N_STATE=1 RTS_N_STATE=1
* Reduced CH340C USB-UART bridge observation behavior.
* TXD, DTR_N, and RTS_N are preliminary voltage drivers with the source
* impedance inferred from the 3.3 V-mode VOH condition. RXD is represented as a
* high-impedance input. USB protocol, enumeration, oscillator, suspend, and
* transistor-level modem-line behavior are intentionally not modeled.
BTXD NTXD GND V={v(VCC,GND)*TXD_STATE}
RTXD NTXD TXD 300
BDTR NDTR GND V={v(VCC,GND)*DTR_N_STATE}
RDTR NDTR DTR_N 300
BRTS NRTS GND V={v(VCC,GND)*RTS_N_STATE}
RRTS NRTS RTS_N 300
RRXD RXD GND 1G
.ends CIRCUITCI_CH340C_USB_UART

.subckt CIRCUITCI_CP2102N_USB_UART VREGIN VDD VIO GND TXD RXD RTS DTR RSTB PARAMS: TXD_STATE=1 RTS_STATE=1 DTR_STATE=1
* Reduced CP2102N USB-UART bridge observation behavior.
* VDD is a preliminary internal-regulator rail from VREGIN. TXD, RTS, and DTR
* are VIO-referenced voltage drivers with conservative source impedance. RXD
* and RSTB are represented as high-impedance inputs. USB protocol,
* enumeration, UART timing, suspend, regulator stability, and transistor-level
* modem-line behavior are intentionally not modeled.
BREG NREG GND V={3.3/(1+exp(-4*(v(VREGIN,GND)-3.0)))}
RREG NREG VDD 0.1
BTXD NTXD GND V={v(VIO,GND)*TXD_STATE}
RTXD NTXD TXD 100
BRTS NRTS GND V={v(VIO,GND)*RTS_STATE}
RRTS NRTS RTS 100
BDTR NDTR GND V={v(VIO,GND)*DTR_STATE}
RDTR NDTR DTR 100
RRXD RXD GND 1G
RRST RSTB GND 1G
.ends CIRCUITCI_CP2102N_USB_UART

.subckt CIRCUITCI_FT232R_USB_UART VCC V3V3OUT VCCIO GND TXD RXD RTS_N DTR_N RESET_N PARAMS: TXD_STATE=1 RTS_N_STATE=1 DTR_N_STATE=1
* Reduced FT232R USB-UART bridge observation behavior.
* V3V3OUT is a preliminary internal-regulator rail from VCC. TXD, RTS_N, and
* DTR_N are VCCIO-referenced voltage drivers with conservative source
* impedance. RXD and RESET_N are represented as high-impedance inputs. USB
* protocol, enumeration, EEPROM/CBUS programming, suspend, oscillator accuracy,
* regulator stability, and transistor-level modem-line behavior are
* intentionally not modeled.
BREG NREG GND V={3.3/(1+exp(-4*(v(VCC,GND)-4.0)))}
RREG NREG V3V3OUT 0.1
BTXD NTXD GND V={v(VCCIO,GND)*TXD_STATE}
RTXD NTXD TXD 1100
BRTS NRTS GND V={v(VCCIO,GND)*RTS_N_STATE}
RRTS NRTS RTS_N 1100
BDTR NDTR GND V={v(VCCIO,GND)*DTR_N_STATE}
RDTR NDTR DTR_N 1100
RRXD RXD GND 1G
RRST RESET_N GND 1G
.ends CIRCUITCI_FT232R_USB_UART

.subckt CIRCUITCI_CH347_USB_JTAG_BRIDGE VCC GND TXD1 RXD1 TMS TCK TDI TDO TRST PARAMS: TXD1_STATE=1 TMS_STATE=1 TCK_STATE=0 TDI_STATE=1 TRST_STATE=1
* Reduced CH347 USB-JTAG bridge observation behavior.
* TXD1, TMS, TCK, TDI, and TRST are preliminary VCC-referenced voltage
* drivers with source impedance inferred from the 3.3 V VOH condition. RXD1
* and TDO are represented as high-impedance inputs. USB protocol,
* enumeration, UART/JTAG timing, clocking, EEPROM configuration, and
* protocol-level TAP behavior are intentionally not modeled.
BTXD1 NTXD1 GND V={v(VCC,GND)*TXD1_STATE}
RTXD1 NTXD1 TXD1 50
BTMS NTMS GND V={v(VCC,GND)*TMS_STATE}
RTMS NTMS TMS 50
BTCK NTCK GND V={v(VCC,GND)*TCK_STATE}
RTCK NTCK TCK 50
BTDI NTDI GND V={v(VCC,GND)*TDI_STATE}
RTDI NTDI TDI 50
BTRST NTRST GND V={v(VCC,GND)*TRST_STATE}
RTRST NTRST TRST 50
RRXD1 RXD1 GND 1G
RTDO TDO GND 1G
.ends CIRCUITCI_CH347_USB_JTAG_BRIDGE

.subckt CIRCUITCI_CMSIS_DAP_SWD_PROBE VTREF GND SWCLK SWDIO NRESET SWO PARAMS: SWCLK_STATE=1 SWDIO_STATE=1 NRESET_ASSERT=0
* Reduced CMSIS-DAP SWD probe observation behavior.
* SWCLK and SWDIO are preliminary VTREF-referenced push-pull line-state
* drivers. NRESET is represented as an open-drain-style pull-down that releases
* to the target pull-up when NRESET_ASSERT is low. SWO is represented as a
* high-impedance input. USB transport, CMSIS-DAP command sequencing, turnaround
* timing, SWD protocol transfers, and target/probe vendor electrical limits are
* intentionally not modeled.
BSWCLK NSWCLK GND V={v(VTREF,GND)*SWCLK_STATE}
RSWCLK NSWCLK SWCLK 100
BSWDIO NSWDIO GND V={v(VTREF,GND)*SWDIO_STATE}
RSWDIO NSWDIO SWDIO 100
BNRST NNRST GND V={0}
RNRST NNRST NRESET {1e12/(1+1e9*NRESET_ASSERT)}
RSWO SWO GND 1G
.ends CIRCUITCI_CMSIS_DAP_SWD_PROBE

.subckt CIRCUITCI_TXS0108E_A_TO_B_LEVEL_SHIFTER VCCA VCCB GND OE A1 B1
* Reduced TXS0108E level-shifter observation behavior.
* This face models only enabled A1-to-B1 high/low translation for preliminary
* mixed-voltage checks. Automatic bidirectional sensing, edge accelerators,
* pull-up sizing, capacitive loading, partial-power behavior, timing, and signal
* integrity are intentionally not modeled.
BOUT NB1 GND V={v(VCCB,GND)/(1+exp(-20*(v(OE,GND)-0.5*v(VCCA,GND))))/(1+exp(-20*(v(A1,GND)-0.5*v(VCCA,GND))))}
RBOUT NB1 B1 200
RAIN A1 GND 1G
ROE OE GND 1G
.ends CIRCUITCI_TXS0108E_A_TO_B_LEVEL_SHIFTER

.subckt CIRCUITCI_TPD2EUSB30_USB_ESD DP DM GND
* Reduced TPD2EUSB30 USB ESD observation behavior.
* Normal-operation model only: 0.7 pF typical IO-to-ground capacitance and
* high-impedance leakage placeholders. IEC ESD pulse clamping, dynamic snapback,
* leakage over temperature, USB eye margin, and layout are intentionally not
* modeled.
CDP DP GND 0.7p
CDM DM GND 0.7p
RDP DP GND 1G
RDM DM GND 1G
.ends CIRCUITCI_TPD2EUSB30_USB_ESD

.subckt CIRCUITCI_TPS54331_5V_BUCK VIN EN GND VSENSE PARAMS: VOUT_V=5
* Reduced TPS54331 5 V buck-regulator observation behavior.
* The output is an ideal preliminary rail source gated by VIN input range and
* EN. Switching action, PH/BOOT behavior, compensation, ripple, current limit,
* thermal behavior, and Eco-mode are intentionally not modeled.
BOUT VSENSE GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-3.5)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VSENSE GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS54331_5V_BUCK

.subckt CIRCUITCI_TPS62162_3V3_BUCK VIN EN GND VOS PARAMS: VOUT_V=3.3
* Reduced TPS62162 3.3 V buck-regulator observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet VIN
* operating floor and EN. SW/PG behavior, DCS-Control dynamics, ripple, current
* limit, thermal behavior, layout, EMI, and loop stability are intentionally
* not modeled.
BOUT VOS GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-3.0)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOS GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS62162_3V3_BUCK

.subckt CIRCUITCI_TPS63802_3V3_BUCK_BOOST VIN EN GND VOUT PARAMS: VOUT_V=3.3
* Reduced TPS63802 3.3 V buck-boost observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet VIN
* startup floor and EN. L1/L2 switching, FB dynamics, MODE/PG behavior,
* inductor current, thermal behavior, layout, EMI, and loop stability are
* intentionally not modeled.
BOUT VOUT GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-1.8)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS63802_3V3_BUCK_BOOST

.subckt CIRCUITCI_TPS61023_5V_BOOST VIN EN GND VOUT PARAMS: VOUT_V=5
* Reduced TPS61023 5 V boost-regulator observation behavior.
* The output is an ideal preliminary rail source gated by the datasheet startup
* input floor and EN. SW switching, FB-loop dynamics, inductor current, ripple,
* current limit, thermal behavior, layout, EMI, and loop stability are
* intentionally not modeled.
BOUT VOUT GND V={VOUT_V/(1+exp(-4*(v(VIN,GND)-1.8)))/(1+exp(-20*(v(EN,GND)-1)))}
ROUT VOUT GND 1G
RBIAS EN GND 1G
.ends CIRCUITCI_TPS61023_5V_BOOST

.subckt CIRCUITCI_TPS2121_POWER_MUX IN1 IN2 GND OUT ILIM PARAMS: SELECT_INPUT=1
* Reduced TPS2121 power-mux observation behavior.
* SELECT_INPUT near 1 selects IN1; near 2 selects IN2. OUT is an ideal
* preliminary selected-source rail. Priority comparators, switchover droop,
* reverse-current magnitude, ILIM-derived current limit, soft-start, thermal
* behavior, and status output are intentionally not modeled.
BOUT OUT GND V={((1-(1/(1+exp(-20*(SELECT_INPUT-1.5)))))*v(IN1,GND)+(1/(1+exp(-20*(SELECT_INPUT-1.5))))*v(IN2,GND))}
RILIMBIAS ILIM GND 1G
ROUT OUT GND 1G
.ends CIRCUITCI_TPS2121_POWER_MUX

.subckt CIRCUITCI_TPS22918_LOAD_SWITCH VIN VOUT GND ON
* Reduced TPS22918 enabled high-side switch behavior.
* ON controls a smooth VIN-to-VOUT conductance near the datasheet typical
* 52 mOhm on-resistance. CT slew, QOD discharge, reverse-current behavior,
* thermal behavior, and current limiting are intentionally not modeled.
BSW VIN VOUT I={v(VIN,VOUT)*(1e-9 + 19.23/(1+exp(-20*(v(ON,GND)-1))))}
RLEAK VOUT GND 1G
RBIAS ON GND 1G
.ends CIRCUITCI_TPS22918_LOAD_SWITCH

.subckt CIRCUITCI_MCP73831_4V2_CHARGER VDD VBAT VSS PROG
* Reduced MCP73831-2 constant-current/constant-voltage charger behavior.
* A 1 uA PROG bias makes the external RPROG voltage encode the datasheet
* IREG = 1000 V / RPROG relationship as ICHG = 0.001 / V(PROG,VSS).
* Thermal regulation, charge qualification, termination, STAT behavior, and
* battery chemistry are intentionally not modeled.
BPROG PROG VSS I=1u
BCHG VDD VBAT I={(0.001/sqrt(v(PROG,VSS)*v(PROG,VSS)+1e-12))/(1+exp(25*(v(VBAT,VSS)-4.2)))}
BCLAMP VBAT VSS I={5*(v(VBAT,VSS)-4.2+sqrt((v(VBAT,VSS)-4.2)*(v(VBAT,VSS)-4.2)+1e-8))}
RLEAK VBAT VSS 1G
.ends CIRCUITCI_MCP73831_4V2_CHARGER

.subckt CIRCUITCI_BQ24075_POWER_PATH_CHARGER IN BAT OUT VSS ISET
* Reduced BQ24075 power-path charger behavior.
* A 1 uA ISET bias makes the external RISET voltage encode the datasheet
* ICHG = 890 / RISET relationship as ICHG = 0.00089 / V(ISET,VSS).
* OUT is a smooth preliminary min(IN, 5.5 V) behavioral rail source. DPPM,
* supplement mode, input-current limiting, thermal behavior, and termination
* are intentionally not modeled.
BISET ISET VSS I=1u
BCHG IN BAT I={(0.00089/sqrt(v(ISET,VSS)*v(ISET,VSS)+1e-12))/(1+exp(25*(v(BAT,VSS)-4.2)))}
BOUT OUT VSS V={0.5*(v(IN,VSS)+5.5-sqrt((v(IN,VSS)-5.5)*(v(IN,VSS)-5.5)+1e-6))}
BCLAMP BAT VSS I={5*(v(BAT,VSS)-4.2+sqrt((v(BAT,VSS)-4.2)*(v(BAT,VSS)-4.2)+1e-8))}
RLEAK BAT VSS 1G
.ends CIRCUITCI_BQ24075_POWER_PATH_CHARGER

.subckt CIRCUITCI_BQ25798_NVDC_CHARGER VBUS SYS BAT GND PARAMS: ICHG_A=1 VSYS_V=12 VBAT_REG_V=16.8
* Reduced BQ25798 buck-boost/NVDC charger observation behavior.
* ICHG_A is a host-declared charge-current setting from Board IR component
* parameters. SYS is an ideal preliminary observation rail while VBUS is above
* the datasheet input floor. Buck-boost switching, DPM/MPPT, BATFET supplement
* mode, register sequencing, thermal behavior, and cell-safety behavior are
* intentionally not modeled.
BCHG VBUS BAT I={ICHG_A/(1+exp(8*(v(BAT,GND)-VBAT_REG_V)))}
BSYS SYS GND V={VSYS_V/(1+exp(-4*(v(VBUS,GND)-3.6)))}
BCLAMP BAT GND I={2*(v(BAT,GND)-VBAT_REG_V+sqrt((v(BAT,GND)-VBAT_REG_V)*(v(BAT,GND)-VBAT_REG_V)+1e-8))}
RLEAK BAT GND 1G
.ends CIRCUITCI_BQ25798_NVDC_CHARGER

.subckt CIRCUITCI_TLV803EA29_RESET_SUPERVISOR VDD GND RESET
* Reduced TLV803EA29 active-low open-drain threshold behavior.
* RESET is strongly pulled low while VDD is below the nominal 2.93 V threshold
* and otherwise relies on an external pull-up resistor in the circuit. The
* logistic conductance avoids hard switching discontinuities.
BRESET RESET GND I={v(RESET,GND)*(1e-9 + 1/(1+exp(80*(v(VDD,GND)-2.93))))}
RLEAK RESET GND 1G
.ends CIRCUITCI_TLV803EA29_RESET_SUPERVISOR
